US07135475B2
A mixture of 4-methyl-[l,2,3]thiadiazole-5-carboxylic acid (12 mg, 0.08 mmol) in dichloromethane (2.0 mL) cooled to 0° C. was treated with triphenylphosphine (27 mg , 0.10 mmol), and N-chlorosuccinimide (14 mg, 0.10 mmol). This mixture was stirred at 0° C. for 30 min and at 25° C. for 10 min. At this time, the reaction was treated with 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione ( 75 mg, 0.17 mmol). The reaction was then stirred at 25° C. for 18 h. At this time, the reaction was diluted with dichloromethane. The organics were washed with a saturated aqueous sodium bicarbonate solution. This solution was extracted with a 90/10 dichloromethane/methanol solution. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting residue was purified by HPLC (15–60% acetonitrile/water (0.075% trifluoroacetic acid in both solvents) over 40 min). Fractions with the desired product were combined and concentrated in vacuo. The resulting residue was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (25 mL). The aqueous layer was re-extracted with dichloromethane (1×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was dried in vacuo for 24 h to afford 4-methyl-[1,2,3]thiadiazole-5-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (7.0 mg, 14.5%) as a white solid: 1H NMR (DMSO-d6, 300 MHz) δ13.14 (broad s, 1H), 6.92–6.67 (m, 8H), 4.75 (s, 2H), 3.70 (s, 2H), 3.47 (d, J=7.32 Hz, 2H), 2.99 (s, 3H), 2.26 (s, 3H), 0.82 (m, 1H), 0.03 (m, 4H).

reactant | 4-methyl-[l,2,3]thiadiazole-5-carboxylic acid | 0.08 mmol, 12 mg | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | triphenylphosphine | 0.10 mmol, 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.10 mmol, 14 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.17 mmol, 75 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 4-methyl-[1,2,3]thiadiazole-5-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 7.0 mg, 14.5% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C1=C(N=NS1)C)C)=O)CC1=C(C=CC=C1)F)=O | C28H26FN7O3S
